US05696263
(S)-2-O-(Diisopropylphosphonomethyl)-1-O-methoxymethyl-1,2,4-butanetriol
Palladium hydroxide on carbon (20%, 10 g) was added to a solution of 4-O-benzyl-2-O-(diisopropylphosphonomethyl)-1-O-methoxymethyl-1,2,4-butanetriol (21.9 g, 52.33 mmol) in a mixture of ethanol and cyclohexene (200 mL of each). The resulting mixture was heated at reflux for 6 hours. The mixture was cooled to room temperature and filtered. The filtrate was evaporated and the residue was purified by flash chromatography on silica gel (methylene chloride:methanol=20:1 to 10:1) to give 16.79 g (98% yield) of the title compound as an oil.

reactant | 4-O-benzyl-2-O-(diisopropylphosphonomethyl)-1-O-methoxymethyl-1,2,4-butanetriol | 52.33 mmol, 21.9 g | C(C1=CC=CC=C1)OCCC(COCOC)OCP(=O)(OC(C)C)OC(C)C | C20H35O7P
solvent | ethanol | C(C)O | C2H6O
solvent | cyclohexene | C1=CCCCC1 | C6H10
catalyst | Palladium hydroxide on carbon | 10 g | [OH-].[OH-].[Pd+2]
product | (S)-2-O-(Diisopropylphosphonomethyl)-1-O-methoxymethyl-1,2,4-butanetriol | 16.79 g, 98% yield | C(C)(C)OP(=O)(OC(C)C)CO[C@H](COCOC)CCO | C13H29O7P
